US05430151
1-(Trifluoromethyl)decahydroisoquinoline
20 g (0,101 mol) of 1-(Trifluoromethyl)-3,4-dihydroisoquinoline [prepared from N-(phenethyl)trifluoroacetamide analogously to U.S. Pat. No. 3,956,333 (11.5.76; Sterling Drug Inc.)] were hydrogenated in 100 ml of tetrahydrofuran on 5 g of ruthenium on alumina (about 10% Ru content) at 150° C. for 8 h at an H 2 pressure of 100 bar in a 0.3 1 V4A autoclave. After filtration, the THF was stripped off and the crude product was fractionareal in a water pump vacuum by means of a microdistillation apparatus. B.p.16 (main fraction): 94°-96° C. Yield: 19 g (0.092 mol) (91% of theory) The product was obtained as a diastereomer mixture. 19F--NMR: δ=+5.9 ppm(d, JH-F =8.5 Hz)(according to integral about 99%) 19F--NMR: δ=+14.2 ppm(d, JH-F =8.5 Hz) (according to integral <1%) (against external CF3COOH).

reactant | 1-(Trifluoromethyl)-3,4-dihydroisoquinoline | 0,101 mol, 20 g | FC(C1=NCCC2=CC=CC=C12)(F)F | C10H8F3N
reactant | N-(phenethyl)trifluoroacetamide | C(CC1=CC=CC=C1)NC(C(F)(F)F)=O | C10H10F3NO
reactant | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | ruthenium on alumina | 5 g | [Ru] | Ru
product | 1-(Trifluoromethyl)decahydroisoquinoline | FC(C1NCCC2CCCCC12)(F)F | C10H16F3N
